US08314098B2
(Step 2): 5-Chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
5,7-Dichloro-pyrazolo[1,5-a]pyrimidine (400 mg, 2.13 mM) was dissolved in 1,4-dioxane (8 mL), then morpholine (372 μL, 4.26 mM) was added to the solution and the mixture was stirred at room temperature for 30 minutes. The solvent was distilled off from the reaction mixture, the resulting residue was diluted with water and extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate and the solvent was then distilled off to give the title compound (461 mg, yield: 91%).

reactant | 5,7-Dichloro-pyrazolo[1,5-a]pyrimidine | 2.13 mM, 400 mg | ClC1=NC=2N(C(=C1)Cl)N=CC2 | C6H3Cl2N3
reactant | morpholine | 4.26 mM, 372 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 461 mg, yield: 91% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=CC2 | C10H11ClN4O
